US04812164
using isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and sodium ethylate in ethanol there is obtained isopropyl 5-[2-ethoxy-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-2-chloro-4-fluorobenzoate, 1H-NMR (CDCl3, 400 MHz): 7.83 ppm (d,1H), 7.40 ppm (d,1H), 5.27 ppm (m,1H), 4.48 ppm (m,2H), 1.39 ppm (d,3H), 1.38 ppm (d,3H), 1.29 ppm (t,3H);

reactant | isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=C(C1=O)F)C(F)(F)F)Cl | C15H9Cl2F5N2O3
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | isopropyl 5-[2-ethoxy-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-2-chloro-4-fluorobenzoate | C(C)OC=1N(C(C(=C(N1)C(F)(F)F)F)=O)C=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C17H14ClF5N2O4
